US04070366
2,4-Di-n-propyl-3-methyl-5-carbethoxypyrrole
The crude product, obtained as in Example 74 but using 2,4-di-n-propyl-5-carbethoxypyrrole and paraformaldehyde, was extracted with ether then sublimed (65° C. 1 × 10-4 mm), m.p. 78°-80° C. (17%).

reactant | 2,4-di-n-propyl-5-carbethoxypyrrole | C(CC)C=1NC(=C(C1)CCC)C(=O)OCC | C13H21NO2
reactant | paraformaldehyde | C=O | CH2O
product | 2,4-Di-n-propyl-3-methyl-5-carbethoxypyrrole | C(CC)C=1NC(=C(C1C)CCC)C(=O)OCC | C14H23NO2
